US07511144B2
Under an atmosphere of argon, 2.18 g (12.09 mmol) of 3-(3-methoxyphenyl)propionic acid was put into a three-neck flask, and tetrahydrofuran (20 mL) and tert-butylalcohol (20 mL) were added thereto. After cooling to −78° C., about 150 mL of liquid ammonia was added thereto, and then sodium was added piece by piece. After the reaction was completed, ethanol was added to stop the reaction, and ammonia was removed at room temperature. After sodium dihydrogen phosphate was added thereto to make the reaction mixture acidic, it was extracted with chloroform, dried over magnesium sulfate and filtered, followed by evaporation of the solvent under a reduced pressure. An aqueous solution of acetic acid (acetic acid:distilled water=4:1) was added to the residue and stirred for 45 minutes, and then the solvent was removed under a reduced pressure. To the obtained residue was added 50 mL of ethanol, followed by 8 mL (16 mmol) of 2M trimethylsilyldiazomethane at 0° C. After stirring for 1 hour, the reaction mixture was concentrated under a reduced pressure and then 50 mL of ethanol was added to the obtained residue. Then, 450 mg (11.9 mmol) of sodium borohydride was added thereto at 0° C., and after the reaction was completed, saturated aqueous ammonium chloride solution was added. The resulting mixture was concentrated under a reduced pressure and extracted with ethyl acetate after the saturated aqueous sodium bicarbonate solution was added. The solvent was removed under a reduced pressure, and then the residue was purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=7:3 to 1:1) to obtain 793 mg (4.3 mmol) of 3-(5-hydroxycyclohexa-1-enyl)propionic acid methyl ester. Its physical property is shown below.

reactant | 3-(3-methoxyphenyl)propionic acid | 12.09 mmol, 2.18 g | COC=1C=C(C=CC1)CCC(=O)O | C10H12O3
reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | trimethylsilyldiazomethane | 16 mmol, 2M, 8 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | sodium borohydride | 11.9 mmol, 450 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | tert-butylalcohol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(5-hydroxycyclohexa-1-enyl)propionic acid methyl ester | 4.3 mmol, 793 mg | COC(CCC1=CCCC(C1)O)=O | C10H16O3
